US06875883B2
2,4-Dimethoxybenzoic acid is reacted with hydroxylamine to form 2,4-dimethoxybenzaldoxime. 2,4-Dimethoxybenzaldoxime is reacted with diphosphorus pentoxide to form 2,4-dimethoxybenzonitrile. 2,4-Dimethoxybenzonitrile is reacted with boron trichloride to form 2,4-dihydroxybenzonitrile.

reactant | 2,4-Dimethoxybenzaldoxime | COC1=C(C=NO)C=CC(=C1)OC | C9H11NO3
reactant | diphosphorus pentoxide | O=P12OP3(=O)OP(=O)(O1)OP(=O)(O2)O3 | O10P4
product | 2,4-dimethoxybenzonitrile | COC1=C(C#N)C=CC(=C1)OC | C9H9NO2
